US09061994B1
Synthesis of 2-isopropyl-5-methoxyindole (105c)
N-(t-Boc)-4-Methoxy-2-methylaniline (500 mg, 2.1 mmol) was dissolved in THF (10 mL) under an atmosphere of Ar (g). The solution was cooled to −40° C. over 10 minutes and sec-butyllithium (1.4 M in cyclohexane, 3.33 mL) was added slowly to maintain an internal temperature of <−25° C. After reaching 1 equivalent of sec-butyllithium (3.33 mL) the reaction mixture turned a bright yellow signifying the total deprotonation of the amide nitrogen. The reaction mixture was then cooled to −50° C. and a solution of N-Methoxy-N-methylisopropanamide (288 mg, 2.2 mmol) in THF (3 mL) was added over 5 minutes. The reaction mixture was warmed to −10° C. over 30 minutes. The mixture was partitioned between Et2O (50 mL) and 1N HCl (50 mL). The aqueous layer was extracted an additional two times with Et2O (25 mL). The Et2O was then washed with brine (50 mL), dried over anhydrous Na2SO4 and concentrated in vacuo to yield dark brown oil. The described reaction was performed 2 more times (3 total) times yielding crude ketone (2.2 g), which was taken directly to the next step. Crude intermediate (2.2 g) was dissolved in dichloromethane (20 mL) and trifluoroacetic acid (3 mL) was added to the reaction mixture and stirred at room temperature for 48 hours. Upon completion, the reaction mixture was added to a separatory funnel and washed with NaHCO3 (50 mL) followed by brine (50 mL). The organic layer was dried over NaSO4 and concentrated in vacuo giving a crude black oil (1.5 g) which was purified with column chromatography to yield a yellow solid (340 mg, 28%): TLC Rf 0.48 in 20% EtOAc/hexanes. Melting point=68-71° C. 1H NMR (600 MHz, CDCl3) δ 7.83 (s, 1H), 7.23-7.21 (d, 1H, J=8.7 Hz), 7.05 (d, 1H, J=2.46 Hz), 6.81-6.79 (dd, 1H, J1=2.46 Hz, J2=8.64 Hz), 6.21-6.20 (m, 1H), 3.87 (s, 3H), 3.10-3.05 (m, 1H), 1.35-1.34 (d, 6H, J=6.9 Hz); 13C NMR (150 MHz, CDCl3) δ 154.0, 146.8, 130.7, 129.0, 110.95, 110.83, 102.0, 97.3, 55.9, 36.6, 27.7, 24.7, 23.3. Elemental analysis calculated for C12H15NO: C, 76.16; H, 7.99; N, 7.40. Found: C, 75.95; H, 7.85; N, 7.17.

reactant | sec-butyllithium | 1.4 M, 3.33 mL | C(C)(CC)[Li]
reactant | sec-butyllithium | 3.33 mL, 1 equivalent | C(C)(CC)[Li]
reactant | N-Methoxy-N-methylisopropanamide | 2.2 mmol, 288 mg | CON(C(CC)=O)C | C5H11NO2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-isopropyl-5-methoxyindole | 340 mg, 28% | C(C)(C)C=1NC2=CC=C(C=C2C1)OC | C12H15NO
